US05252732
17-Allyl-1,14-dihydroxy-12-[2'-(4"-(indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone
To a stirred solution of tri(indol-5-yl)bismuthine (150 mg., 0.27 mmol.) in CH2Cl2 (3 mL.) was added peracetic acid (0.05 mL., 0.23 mmol., 32% in acetic acid) followed in 15 minutes by 17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,-27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (100 mg., 0.124 mmol.) and Cu(OAc)2 (20 mg., 0.11 mmol.). The reaction mixture was allowed to stir at room temperature for 2 days. The reaction was quenched with saturated aqueous NaHCO3 and the mixture extracted with CH2Cl2. The extracts were combined, dried with Na2SO4, filtered and concentrated in vacuo. The product was isolated and purified by preparative TLC 2× (2:1 hexane/acetone then 5% CH3OH in CH2Cl2) to give 11 mg of the title compound. MASS (FAB), M+Li 925. Partial 1H NMR (CDCl3, 200 MHz) δ:8.12 (bs, 1H); 7.24 (d, J=10 Hz, 1H); 7.22 (d, J=2.5 Hz, 1H); 7.17 (t, J=3 Hz, 1H); 6.9 (dd, J=3 Hz and 10 Hz, 1H); 6.44 (bs, 1H); 5.70 (m, 1H); 3.53 (s, 3H).

reactant | tri(indol-5-yl)bismuthine | 0.27 mmol, 150 mg | N1C=CC2=CC(=CC=C12)[Bi](C=1C=C2C=CNC2=CC1)C=1C=C2C=CNC2=CC1
reactant | peracetic acid | 0.23 mmol, 0.05 mL | C(C)(=O)OO | C2H4O3
reactant | 17-allyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,-27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.124 mmol, 100 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C44H69NO12
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.11 mmol, 20 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-Allyl-1,14-dihydroxy-12-[2'-(4"-(indol-5-yl)oxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 11 mg | C(C=C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC=2C=C1C=CNC1=CC2)OC)C)C)O)=O | C52H74N2O12
